US08183374B2
Step 3: 1-{4-[2-(2-Fluorophenoxy)Ethyl]Piperazin-1-yl}-3-(3,4,5-Trimethoxyphenyl)Propan-1-One Hydrochloride
To a mixture of 3-(3,4,5-trimethoxyphenyl)propionic acid (0.36 g, 1.5 mmol), HOBt (0.24 g, 1.8 mmol), EDAC.HCl (0.34 g, 1.8 mmol) in DMF (4 mL) was added 1-[2-(2-fluoro-phenoxy)ethyl]piperazine (0.34 g, 1.5 mmol) and triethylamine (0.5 mL, 3.6 mmol). The mixture was then stirred at room temperature for a day, treated with water, and extracted with dichloromethane. The organic layer was washed with water and brine and then concentrated to dryness. The residue was dissolved in ethyl ether and was added with 2N HCl in ether (1 mL). The white solid was filtered and dried under vacuum to give the title compound (408 mg, 52%).

reactant | 3-(3,4,5-trimethoxyphenyl)propionic acid | 1.5 mmol, 0.36 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)O | C12H16O5
reactant | HOBt | 1.8 mmol, 0.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.8 mmol, 0.34 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-[2-(2-fluoro-phenoxy)ethyl]piperazine | 1.5 mmol, 0.34 g | FC1=C(OCCN2CCNCC2)C=CC=C1 | C12H17FN2O
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-{4-[2-(2-Fluorophenoxy)Ethyl]Piperazin-1-yl}-3-(3,4,5-Trimethoxyphenyl)Propan-1-One Hydrochloride | 408 mg, 52% | Cl.FC1=C(OCCN2CCN(CC2)C(CCC2=CC(=C(C(=C2)OC)OC)OC)=O)C=CC=C1 | InChI=1S/C24H31FN2O5.ClH/c1-29-21-16-18(17-22(30-2)24(21)31-3)8-9-23(28)27-12-10-26(11-13-27)14-15-32-20-7-5-4-6-19(20)25;/h4-7,16-17H,8-15H2,1-3H3;1H
